US04473568
A solution of 1.35 g (5.33 mmol) of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.34 ml (13.3 mmol) of thiomorpholine, 40 ml of acetonitrile, and 20 ml of N,N-dimethylformamide was heated under reflux for 21 hours. The reaction mixture was cooled to room temperature and the solid was collected by filtration, washed with water and acetonitrile, and dried to give 1.18 g of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-thiomorpholinyl)-3-quinolinecarboxylic acid, mp 254°-6°.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 5.33 mmol, 1.35 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | thiomorpholine | 13.3 mmol, 1.34 ml | N1CCSCC1 | C4H9NS
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-thiomorpholinyl)-3-quinolinecarboxylic acid | 1.18 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCSCC1)F)=O)C(=O)O | C16H17FN2O3S
